### PR TITLE
some surgery operations on polynomial

### PR DESCRIPTION
**Pull request by thery**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/poly.v [hunk 1]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+
+Lemma even_polyC (c : R) : even_poly c%:P = c%:P.
+Proof. by apply/polyP => i; rewrite coef_even_poly !coefC; case: i. Qed.
+
+(* Odd part of a polynomial                                                   *)
+
+Definition odd_poly p : {poly R} := \poly_(i < (size p)./2) p`_i.*2.+1.
+
+Lemma size_odd_poly p : (size (odd_poly p) <= (size p)./2)%N.
+Proof. by apply: size_poly. Qed.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2165]:
```suggestion
Proof. exact: size_poly. Qed.
```

File: mathcomp/algebra/poly.v [hunk 2]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+Lemma coef_odd_poly p i : (odd_poly p)`_ i = p `_ i.*2.+1.
+Proof.
+by rewrite coef_poly gtn_half_double; case: leqP => L; rewrite // nth_default.
+Qed.
+
+Lemma odd_polyC (c : R) : odd_poly c%:P = 0.
+Proof. by apply/polyP => i; rewrite coef_odd_poly !coefC; case: i. Qed.
+
+Lemma odd_polyE s (p : {poly R}) :
+  ((size p) <= s.*2.+1)%N -> odd_poly p = \poly_(i < s) p`_i.*2.+1.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2176]:
```suggestion
  (size p <= s.*2.+1)%N -> odd_poly p = \poly_(i < s) p`_i.*2.+1.
```

File: mathcomp/algebra/poly.v [hunk 3]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+have [pLi2|i2Lp] := leqP; have [sLi|iLs] := leqP; rewrite // nth_default //.
+by apply: leq_trans pLs2 _; rewrite ltnS leq_double.
+Qed.
+
+Lemma odd_polyZ k p : odd_poly (k *: p) = k *: odd_poly p.
+Proof. by apply/polyP => i; rewrite !(coefZ, coef_odd_poly). Qed.
+
+Lemma odd_polyD p q : odd_poly (p + q) = odd_poly p + odd_poly q.
+Proof.
+Proof. by apply/polyP => i; rewrite !(coef_odd_poly, coefD). Qed.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2188]:
```suggestion
Proof. by apply/polyP => i; rewrite !(coef_odd_poly, coefD). Qed.
```

File: mathcomp/algebra/poly.v [hunk 4]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+rewrite coefD coefMX !coef_comp_polyXnr // coef_even_poly coef_odd_poly.
+rewrite !divn2 !dvdn2 -(odd_double_half i).
+case: (odd i); rewrite !(add1n, add0n, oddS, odd_double, doubleK, add0r) //=.
+by case: i => [|[|i]]; rewrite ?addr0 //= odd_double /= addr0.
+Qed.
+
+(* take and drop for polynomials                                              *)
+
+Definition take_poly m (p : {poly R}) := \poly_(i < m) p`_i.
+Definition drop_poly m (p : {poly R}) := \poly_(i < m) p`_(i + m).
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2225]: I would have expected something like:
```suggestion
Definition drop_poly m (p : {poly R}) := \poly_(i < (size p - m)%N) p`_(i + m).
```

File: mathcomp/algebra/poly.v [hunk 5]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+
+Lemma coef_take_poly m p i : 
+  (take_poly m p)`_ i = if (i < m)%N then p`_ i else 0.
+Proof. by rewrite coef_poly. Qed.
+
+Lemma coef_drop_poly m p i : 
+  (drop_poly m p)`_ i = if (i < m)%N then p`_ (i + m) else 0.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2232]: I would have expected
```suggestion
Lemma coef_drop_poly m p i : 
  (drop_poly m p)`_ i = if (i < size p - m)%N then p`_ (i + m) else 0.
```

File: mathcomp/algebra/poly.v [hunk 6]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+Proof. by rewrite coef_poly. Qed.
+
+Lemma take_poly_id m p : (size p <= m)%N -> take_poly m p = p.
+Proof.
+move=> Hs; apply/polyP => i.
+rewrite coef_poly; case: leqP => // Hs1.
+by apply/sym_equal/nth_default/(leq_trans Hs).
+Qed.
+
+Lemma take_polyMXn m p : take_poly m (p * 'X^ m) = 0.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2242]: Maybe something more generic like
```suggestion
Lemma take_polyMXn m n p : take_poly m (p * 'X^ n) = take_poly (m - n) p.
```
and something like `take_poly0` to handle the cases `m <= n`

File: mathcomp/algebra/poly.v [hunk 7]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+by rewrite mulr0.
+Qed.
+
+Fact take_poly_is_linear m : linear (take_poly m).
+Proof. by move=> k p q; rewrite take_polyD take_polyZ. Qed.
+
+Canonical take_poly_additive m := Additive (take_poly_is_linear m).
+Canonical take_poly_linear m := Linear (take_poly_is_linear m).
+
+Lemma take_poly0 m : take_poly m 0 = 0.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2266]: If we have a `take_poly0 : take_poly 0 p = 0`, maybe name them `take_poly0l` and `take_poly0r`?

File: mathcomp/algebra/poly.v [hunk 8]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+Proof. by rewrite linear0. Qed.
+
+Lemma take_poly_sum m n (p : 'I_n -> {poly R}) :
+  take_poly m (\sum_(i < n) p i) = \sum_(i < n) (take_poly m (p i)).
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2270]: Maybe make it more generic with sum on a sequence and condition?
```Coq
  take_poly m (\sum_(i <- r | P i) p i) = \sum_(i <- r | P i) (take_poly m (p i)).
```

File: mathcomp/algebra/poly.v [hunk 9]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+
+Lemma drop_poly_eq0 m p : (size p <= m)%N -> drop_poly m p = 0.
+Proof.
+move=> sLm; apply/polyP => i.
+rewrite coef_poly coef0; case: leqP => // Hs1.
+apply: nth_default.
+by apply: leq_trans sLm (leq_addl _ _).
+Qed.
+
+Lemma drop_polyMXn m p : (size p <= m)%N -> drop_poly m (p * 'X^ m) = p.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2281]: Maybe more generic, something like
```suggestion
Lemma drop_polyMXn m n p : drop_poly m (p * 'X^ n) = drop_poly (m - n) p * `X^(n - m).
```

File: mathcomp/algebra/poly.v [hunk 10]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+
+Canonical drop_poly_additive m := Additive (drop_poly_is_linear m).
+Canonical drop_poly_linear m := Linear (drop_poly_is_linear m).
+
+
+Lemma drop_poly0 m : drop_poly m 0 = 0.
+Proof. by rewrite linear0. Qed.
+
+Lemma drop_poly_sum m n (p : 'I_n -> {poly R}) :
+  drop_poly m (\sum_(i < n) p i) = \sum_(i < n) (drop_poly m (p i)).
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2313]:
```suggestion
  drop_poly m (\sum_(i <- r | P i) p i) = \sum_(i <- r | P i) (drop_poly m (p i)).
```

File: mathcomp/algebra/poly.v [hunk 11]
```diff
@@ -2070,6 +2114,219 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+Proof. by rewrite linear_sum. Qed.
+
+Lemma left_drop_polyE m p :
+  (size p <= m.*2)%N -> p = take_poly m p + drop_poly m p * 'X^m.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:2317]: I would have expected
```suggestion
  p = take_poly m p + drop_poly m p * 'X^m.
```
the name `left_drop_polyE` feels a bit strange, maybe `take_drop_poly`?

File: mathcomp/algebra/poly.v [hunk 12]
```diff
@@ -835,6 +839,8 @@ Qed.
 Lemma coefXnM n p i : ('X^n * p)`_i = if i < n then 0 else p`_(i - n).
 Proof. by rewrite -commr_polyXn coefMXn. Qed.
 
+
+
```
Comment (proux01) [inline mathcomp/algebra/poly.v:843]:
```suggestion
```

File: mathcomp/algebra/poly.v [hunk 13]
```diff
@@ -51,6 +51,10 @@ From mathcomp Require Import fintype bigop div ssralg countalg binomial tuple.
 (*                       notation is transposed (q comes before p for redex   *)
 (*                       selection, etc).                                     *)
 (*                      := \sum(i < size p) p`_i *: q ^+ i                    *)
+(*      odd_poly p    == polynomial taking the odd terms of p                 *)
```
Comment (proux01) [inline mathcomp/algebra/poly.v:54]:
```suggestion
(*      odd_poly p    == monomials of odd degree of p                         *)
```

File: mathcomp/algebra/poly.v [hunk 14]
```diff
@@ -51,6 +51,10 @@ From mathcomp Require Import fintype bigop div ssralg countalg binomial tuple.
...
+(*      even_poly p   == polynomial taking the even terms of p                *)
```
Comment (proux01) [inline mathcomp/algebra/poly.v:55]:
```suggestion
(*      even_poly p   == monomials of even degree of p                        *)
```

File: mathcomp/algebra/poly.v [hunk 15]
```diff
@@ -51,6 +51,10 @@ From mathcomp Require Import fintype bigop div ssralg countalg binomial tuple.
...
+(*      take_poly n p == polynomial taking the first n term of p              *)
```
Comment (proux01) [inline mathcomp/algebra/poly.v:56]:
```suggestion
(*      take_poly n p == polynomial p without its monomials of degree >= n    *)
```

File: mathcomp/algebra/poly.v [hunk 16]
```diff
@@ -51,6 +51,10 @@ From mathcomp Require Import fintype bigop div ssralg countalg binomial tuple.
...
+(*      drop_poly n p == polynomial dropping the first n terms of p           *)
```
Comment (proux01) [inline mathcomp/algebra/poly.v:57]:
```suggestion
(*      drop_poly n p == polynomial p divided by X^n                          *)
```

**Review by proux01 — COMMENTED** [review]
I have a question about the definition of `drop_poly`, otherwise I made a few minor suggestions but this looks good.

**Comment by proux01** [comment]
I would also have expected a lemma like `drop_poly_id : drop_poly 0 p = p`

**Comment by proux01** [comment]
It could also be worth adding a lemma in polydiv.v linking `drop_poly` with division?

**Comment by thery** [comment]
> It could also be worth adding a lemma in polydiv.v linking `drop_poly` with division?

Yes I thought about it. My problem is that polydiv proposes some weak form of division. So I think it would be nice 
to have the theorem with (%/ ) but the definition is so intricate that I am quickly lost in the proof. I see if I have more energy in the weekend

**Comment by thery** [comment]
@proux01  ok I think I have adressed all your issues. Thanks a lot. It was a bit shaky!

**Review by proux01 — APPROVED** [review]
LGTM, thanks, made a few minor cleanups and will merge by the end of the week if there is no further comments.

**Comment by thery** [comment]
@proux01 thanks for your review, very helpful!

**Comment by CohenCyril** [comment]
I also have a series of corrections to make (if @proux01 didn't take care of them already ^^')

**Comment by proux01** [comment]
@CohenCyril the last point I'm not entirely sure about is the general rule "put most complicated term on left of equality", that's not really satisfied by `odd_even_polyE` and `take_drop_polyE`

File: mathcomp/algebra/poly.v [hunk 17]
```diff
@@ -2070,6 +2113,236 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+apply/polyP => i; rewrite coefMX coef_comp_poly_Xn// coef_sum coef_odd_poly/=.
+under eq_bigr do rewrite coefZ coefXn mulr_natr mulrb eq_sym.
+case: i => [|i]//=; first by rewrite big1// => -[[|j]//].
+rewrite -big_mkcondl (big_ord1_cond_eq _ _ odd)/= -dvdn2 andbC -muln2.
+by case: (boolP (_ %| _)) => // /divnK->; rewrite if_nth ?leqVgt.
+Qed.
+
+(* Decomposition in odd and even part                                         *)
+Lemma odd_even_polyE p :
+  p = (even_poly p \Po 'X^2) + (odd_poly p \Po 'X^2) * 'X.
```
Comment (CohenCyril) [inline mathcomp/algebra/poly.v:2218]: @proux01 sure! I'm tempted to rename it  `poly_even_odd`.

**Comment by thery** [comment]
@CohenCyril Thanks. Just one remark about `comp_polyXn`and `comp_polyXnr` I try to mix `comp_polyX` and `comp_polyXr`

File: mathcomp/algebra/poly.v (hunk 17 above)
Comment (thery) [reply mathcomp/algebra/poly.v:2218]: maybe èven_odd_poly_eq` like in `divn_eq`

**Review by proux01 — APPROVED** [review]
Thanks for the improved proofs, I updated CHANGELOG, will merge in a few days.

**Comment by thery** [comment]
@CohenCyril  looks good to me. The only I am puzzled about is that I am not sure that  `sum_even_poly` and `sum_odd_poly` are "useful" theorem, they seem there only to ease the proof of  `poly_even_odd`.

I've found a direct  proof of `poly_even_odd` without bigop surgery (using induction). Maybe it is better?
```
Lemma poly_even_odd p : even_poly p \Po 'X^2 + (odd_poly p \Po 'X^2) * 'X = p.
Proof.
elim/poly_ind: p => [|n IH nE]; first by rewrite !linear0 mul0r add0r.
rewrite !linearD /= even_polyMX odd_polyMX.
rewrite even_polyC odd_polyC linear0 addr0 comp_polyC.
rewrite -[in RHS]nE addrAC mulrDl [_ * _ + _]addrC -mulrA -expr2.
by rewrite /comp_poly rmorphM hornerM_comm /comm_poly /= map_polyX hornerX.
Qed.
```

**Comment by thery** [comment]
They look very technical to me 
For example I am not sure I would want 
```\sum_(n <= i < size p) p`_i *: 'X^i = drop_poly n p * 'X^n``` 
but if you think they are useful no problem to have them.

**Comment by CohenCyril** [comment]
> . The only thing I am puzzled about is that I am not sure that `sum_even_poly` and `sum_odd_poly` are "useful" theorems, they seem there only to ease the proof of `poly_even_odd`.

Yes I saw your previous proof. The reason why I suggested to add `sum_even_poly` and `sum_odd_poly` is because I thought they were informative and were good test-benches for the more generic additions to the library. I'm not entirely sure if they are useful though, you are right... Are you ok with keeping them?

**Comment by thery** [comment]
> Good idea! I'm quite fond of it actually :)

@CohenCyril  maybe you could use it to shorten the proof of `poly_take_drop` :smile: 

would be interested to have vscode extrensionl that annotates each theorem of the library with  the number of times it is  used in the CI database.

**Comment by thery** [comment]
I could not improve the proof `poly_take_drop`. So I am fine with the current state of the PR

**Comment by proux01** [comment]
Ok, let's merge
